US09303033B2
Synthesis of tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-yl(2-morpholinopropyl)carbamate
To 5-chloro-N-(2-morpholinopropyl)pyrazolo[1,5-a]pyrimidin-7-amine (3.8 g, 13 mmol) in methylene chloride (50 mL) was added triethylamine (2.1 mL, 15 mmol), dimethylaminopyridine (200 mg, 1.6 mmol), and di-t-butyldicarbonate (3.3 g, 15 mmol). The mixture was stirred at room temperature for 10 hours. The reaction mixture was transferred to a separatory funnel, washed 1× with H2O, 2× with brine, dried over MgSO4, filtered, and evaporated to dryness to provide an oily residue which solidified on standing. The product, tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-yl(2-morpholinopropyl)carbamate, was recovered as an off-white solid in 39% yield (5.1 mmol). LCMS (M+1=396)

reactant | 5-chloro-N-(2-morpholinopropyl)pyrazolo[1,5-a]pyrimidin-7-amine | 13 mmol, 3.8 g | ClC1=NC=2N(C(=C1)NCC(C)N1CCOCC1)N=CC2 | C13H18ClN5O
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 1.6 mmol, 200 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyldicarbonate | 15 mmol, 3.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-yl(2-morpholinopropyl)carbamate | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)CC(C)N1CCOCC1)N=CC2 | C18H26ClN5O3
